US05334505
Pyrazolo[1,5-a]pyridine are dissolved in 30 ml. 6N hydrochloric acid, the solution is cooled to 0° C. and a solution of 6.9 g. sodium nitrite in 30 ml. water is slowly added dropwise thereto. After 1 hour, the nitrosation is complete. About 100 ml. water are added thereto, followed by repeated extraction with ethyl acetate. The organic phase is dried and evaporated. There are obtained 9.6 g. 3-nitrosopyrazolo[1,5-a]pyridine. 4.4.2 9 g. of the nitroso compound obtained according to 4.4.1 are introduced into a solution of 22 g. stannous chloride dihydrate in 180 ml. concentrated hydrochloric acid. The reaction mixture is stirred for 1 hour at ambient temperature and, for the completion of the reduction, mixed with 8 g. stannous chloride dihydrate in 30 ml. concentrated hydrochloric acid. The suspension is poured on to about 150 g. ice, adjusted with sodium hydroxide to pH 12 and quickly extracted with ethyl acetate. The ethyl acetate phase is dried and evaporated. The residue is dissolved in about 350 ml. diethyl ether and mixed with ethereal hydrochloric acid. The precipitate obtained is filtered of, washed with diethyl ether and dried. There are obtained 11.3 g. (100% of theory) 3-aminopyrazolo[1,5-a]pyridine hydrochloride; m.p. 228°-232° C. Rf (silica gel, ethyl acetate/methanol 9:1 v/v)=0.52. 4.4.3. The leuko coloured material 4-hydroxyphenyl-pyrazolo[1,5-a]pyridin-3-ylamine is obtained analogously to 4.3.2 and 4.3.3 with the use of 3-aminopyrazolo[1,5-a]pyridine as starting material. Rf (silica gel, ethyl acetate/diethyl ether 1:1 v/v)=0.68.

reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-aminopyrazolo[1,5-a]pyridine hydrochloride | Cl.NC=1C=NN2C1C=CC=C2
reactant | 4-hydroxyphenyl-pyrazolo[1,5-a]pyridin-3-ylamine | OC1=CC=C(C=C1)NC=1C=NN2C1C=CC=C2 | C13H11N3O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 3-aminopyrazolo[1,5-a]pyridine | NC=1C=NN2C1C=CC=C2 | C7H7N3
